US04486428
dl-4-[5-Hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]butyric acid
A mixture of 1.407 g (3.45 mmole) dl-3-(3-cyanopropyl)-5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran, 50 ml methanol and 26 ml 1N sodium hydroxide was heated at reflux overnight. The methanol was evaporated and the aqueous residue washed with methylene chloride. The methylene chloride washings were extracted with 10 ml 1N sodium hydroxide, the combined aqueous layers acidified with hydrochloric acid, extracted with methylene chloride and the organic extracts dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to obtain 1.189 g of the title acid as a foam. Mass spectrum (m/e): 426 (M+) 280 (M-146), 139 (base).

reactant | 3-(3-cyanopropyl)-5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | C(#N)CCCC1C(OC2=C(C1)C(=CC(=C2)OC(C)CCCC2=CC=CC=C2)O)(C)C | C26H33NO3
reactant | sodium hydroxide | 1N, 26 ml | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | 4-[5-Hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]butyric acid | 1.189 g | OC1=CC(=CC2=C1CC(C(O2)(C)C)CCCC(=O)O)OC(C)CCCC2=CC=CC=C2 | C26H34O5
